US07534547B2
In 50 ml of chloroform was dissolved 8.63 g (57.5 mmol) of 4-n-propylbenzyl alcohol synthesized in the step (ii), and 8.10 g (68.1 mmol) of thionyl chloride was added to the mixture. The mixture was subjected to reaction at a room temperature for 24 hours. After the completion of the reaction, the chloroform phase was washed successively with an aqueous solution of sodium hydrogencarbonate and water. Chloroform was removed from the chloroform phase to give 9.40 g (55.8 mmol) of 4-n-propylbenzylchloride.

reactant | 4-n-propylbenzyl alcohol | 57.5 mmol, 8.63 g | C(CC)C1=CC=C(CO)C=C1 | C10H14O
reactant | thionyl chloride | 68.1 mmol, 8.10 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-n-propylbenzylchloride | 55.8 mmol, 9.40 g | C(CC)C1=CC=C(CCl)C=C1 | C10H13Cl
